US06150373
A solution of 257 mg (0.53 mmol) of 3-(2-bromophenyl)-3,4-dihydro-1-[3-(hydroxymethyl)phenyl]-7-methanesulfonyl-pyrimido[4,5-d]pyrimidin-2(1H)-one in 15 ml of dichloromethane was treated with 0.15 ml (1.06 mmol) of triethylamine and 104 mg (0.6 mmol) of methanesulfonic anhydride. After 18 hours 10 ml of saturated aqueous sodium bicarbonate was added. The mixture was separated and the organic phase dried over magnesium sulfate, filtered and evaporated to afford 250 mg (83%) of 3-(2-bromophenyl)-3,4-dihydro-7-(methanesulfonyl)-1-[3-(methanesulfonyloxymethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one as a colorless oil. [Mass spectrum (ESI) MH+ =567].

reactant | 3-(2-bromophenyl)-3,4-dihydro-1-[3-(hydroxymethyl)phenyl]-7-methanesulfonyl-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.53 mmol, 257 mg | BrC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC(=CC=C1)CO)=O | C20H17BrN4O4S
reactant | triethylamine | 1.06 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 0.6 mmol, 104 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-(2-bromophenyl)-3,4-dihydro-7-(methanesulfonyl)-1-[3-(methanesulfonyloxymethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 250 mg, 83% | BrC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1=CC(=CC=C1)COS(=O)(=O)C)=O | C21H19BrN4O6S2
